US05264432
5-(4-Diethylamino-butyryl)-5,10-dihydro-11H-dibenzo(b,e)(1,4)-diazepine-11-one
The 5-(4-bromobutyryl)-5,10-dihydro-11H-dibenzo(b,e)(1,4)-diazepine-11-one, starting material, was synthesized similarly to the starting material described in Example 1, from 5,10-dihydro-11H-dibenzo(b,e)(1,4)-diazepine-11-one and 4-bromobutyryl chloride. The yield is 74.3% of the theoretical yield and the melting point is 159°-161° C. (toluene).

reactant | 5-(4-bromobutyryl)-5,10-dihydro-11H-dibenzo(b,e)(1,4)-diazepine-11-one | BrCCCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C17H15BrN2O2
reactant | 5,10-dihydro-11H-dibenzo(b,e)(1,4)-diazepine-11-one | C1=CC=CC=2NC3=C(NC(C21)=O)C=CC=C3 | C13H10N2O
reactant | 4-bromobutyryl chloride | BrCCCC(=O)Cl | C4H6BrClO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Diethylamino-butyryl)-5,10-dihydro-11H-dibenzo(b,e)(1,4)-diazepine-11-one | C(C)N(CCCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2)CC | C21H25N3O2
